US07851469B2
6-{4-[3-(4-Fluoro-phenyl)-5-trifluoromethyl-isoxazol-4-yl]-imidazol-1-yl}-nicotinonitrile
As described for Example 24, 3-(4-fluoro-phenyl)-4-(1H-imidazol-4-yl)-5-trifluoromethyl-isoxazole (150 mg, 0.51 mmol), using 6-chloro-3-pyridinecarbonitrile instead of 4-fluoroacetophenone, was converted to the title compound (149.5 mg, 74%) which was obtained as a white solid. MS: m/e=398.3 [M−H]−.

reactant | 3-(4-fluoro-phenyl)-4-(1H-imidazol-4-yl)-5-trifluoromethyl-isoxazole | 0.51 mmol, 150 mg | FC1=CC=C(C=C1)C1=NOC(=C1C=1N=CNC1)C(F)(F)F | C13H7F4N3O
reactant | 6-chloro-3-pyridinecarbonitrile | ClC1=CC=C(C=N1)C#N | C6H3ClN2
product | 6-{4-[3-(4-Fluoro-phenyl)-5-trifluoromethyl-isoxazol-4-yl]-imidazol-1-yl}-nicotinonitrile | 149.5 mg, 74% | FC1=CC=C(C=C1)C1=NOC(=C1C=1N=CN(C1)C1=NC=C(C#N)C=C1)C(F)(F)F | C19H9F4N5O
